US09388142B2
To a suspension of 6-fluoro-2-[4-(1-hydroxy-1-methyl-ethyl)-phenyl]-3H-quinazolin-4-one (149 mg, 0.50 mmol) in ethane-1,2-diol (2 ml) is added toluene-4-sulfonic acid monohydrate (114 mg, 0.60 mmol). The reaction mixture is stirred for 3 hours at ambient temperature. The suspension is then heated to 80° C. and the resulting clear solution is stirred at this temperature for 5 hours. The reaction mixture is cooled to room temperature and water is added. The resulting precipitate is filtered off and washed with water. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to afford 6-fluoro-2-{4-[1-(2-hydroxy-ethoxy)-1-methyl-ethyl]-phenyl}-3H-quinazolin-4-one as white crystals; HPLC/MS 2.28 min (B), [M+H] 343;

reactant | 6-fluoro-2-[4-(1-hydroxy-1-methyl-ethyl)-phenyl]-3H-quinazolin-4-one | 0.50 mmol, 149 mg | FC=1C=C2C(NC(=NC2=CC1)C1=CC=C(C=C1)C(C)(C)O)=O | C17H15FN2O2
reactant | toluene-4-sulfonic acid monohydrate | 0.60 mmol, 114 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | ethane-1,2-diol | 2 ml | C(CO)O | C2H6O2
product | 6-fluoro-2-{4-[1-(2-hydroxy-ethoxy)-1-methyl-ethyl]-phenyl}-3H-quinazolin-4-one | FC=1C=C2C(NC(=NC2=CC1)C1=CC=C(C=C1)C(C)(C)OCCO)=O | C19H19FN2O3
